US07884114B2
3-(Cyclopentylthio)-1-propanol
To a suspension of sodium hydride (commercially available, for example, from Aldrich) (60% dispersion in mineral oil; 800 mg, 20 mmol) in dry DMF (30 ml) was carefully added cyclopentyl mercaptan (commercially available, for example, from Aldrich and/or Alfa Aesar) (2.14 ml, 20 mmol). The resultant suspension was stirred at room temperature, under nitrogen for 15 min before adding 3-bromopropanol (commercially available, for example, from Aldrich) (1.81 ml, 20 mmol). The mixture was then stirred under nitrogen and heated to 80° C. overnight. Water (20 ml) was cautiously added to the reaction mixture, followed by diethyl ether (50 ml). The aqueous solution was extracted with diethyl ether (2×50 ml). The combined organic solutions were washed with water (100 ml) and brine (100 ml) and concentrated in vacuo to leave a yellow oil, which was purified by flash chromatography on silica eluting with cyclohexane-EtOAc (3:1) increasing to (1:1). The solvents were removed in vacuo to afford the title compound (2.18 g). LCMS RT=2.61 min, ES+ve m/z 161 (M+H)+.

reactant | sodium hydride | [H-].[Na+]
reactant | cyclopentyl mercaptan | C1(CCCC1)S | C5H10S
reactant | 3-bromopropanol | BrCCCO | C3H7BrO
reactant | Water | 20 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-(Cyclopentylthio)-1-propanol | 2.18 g | C1(CCCC1)SCCCO | C8H16OS
